US05328911
4-Chloro-2-(4-methylphenyl)benzonitrile
26 ml of thionyl chloride was dropwise added to 8.9 g of 4-chloro-2-(4-methylphenyl)benzamide, and the mixture was heated under reflux for 2.5 hr. Excess thionyl chloride was distilled off as much as possible by making use of toluene. The residue was recrystallized from a mixed solvent of tetrahydrofuran-isopropyl ether-n-hexane to prepare 7.2 g of a product.

reactant | thionyl chloride | 26 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chloro-2-(4-methylphenyl)benzamide | 8.9 g | ClC1=CC(=C(C(=O)N)C=C1)C1=CC=C(C=C1)C | C14H12ClNO
product | 4-Chloro-2-(4-methylphenyl)benzonitrile | ClC1=CC(=C(C#N)C=C1)C1=CC=C(C=C1)C | C14H10ClN
